US09293708B2
(4,4-Didodecyl-4H-cyclopenta[1,2-b:5,4-b′]dithiophene-2,6-diyl)bis(trimethylstannane) (4a)
A dry three-neck round bottom flask was equipped with a Schlenk adapter, dropping funnel, and rubber septum. Under nitrogen, 4,4-didodecyl-4H-cyclopenta[1,2-b:5,4-b′]dithiophene (0.51 g, 1 mmol) was dissolved in dry THF (12 ml) and cooled −78° C. using a dry ice/acetone cold bath. Under nitrogen, a solution of t-butyllithium (1.7 M in pentane, 2.35 ml, 4 mmol) was added dropwise over 15 minutes to the reaction vessel. The reaction was stirred at −78° C. under nitrogen for one hour and stirred at room temperature for 3 hours. Under nitrogen, a solution of trimethyltin chloride (1.0 g, 5 mmol) in dry pentane (2 ml) was added dropwise over 5 minutes to the reaction vessel at −78° C. The reaction was stirred at −78° C. under nitrogen for 1 hour and subsequently warmed to room temperature and stirred overnight. The mixture was then poured into deionized water (3×100 ml) and the organic phase extracted with hexanes (3×50 ml). The organic phases were collected and washed with deionized water (3×50 ml), dried over sodium sulphate, filtered, and concentrated. The product was dried under high vacuum with agitation for 48 hours to give 0.80 g of product as colorless oil, yield 95%. 1H NMR (500 MHz, CD2Cl2) δ (ppm): 6.94 (s, 2H), 1.79-1.76 (m, 4H), 1.29-1.15 (m, 36H), 1.08-1.02 (m, 4H), 0.88 (t, J=6.0 Hz, 6H), 0.39 (s, 18H).

reactant | 4,4-didodecyl-4H-cyclopenta[1,2-b:5,4-b′]dithiophene | 1 mmol, 0.51 g | C(CCCCCCCCCCC)C1(C2=C(SC=C2)C=2SC=CC21)CCCCCCCCCCCC | C33H54S2
reactant | t-butyllithium | 4 mmol, 1.7 M, 2.35 ml | C(C)(C)(C)[Li]
reactant | trimethyltin chloride | 5 mmol, 1.0 g | C[Sn](C)(C)Cl
reactant | water | 100 ml | O | H2O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | pentane | 2 ml | CCCCC | C5H12
product | (4,4-Didodecyl-4H-cyclopenta[1,2-b:5,4-b′]dithiophene-2,6-diyl)bis(trimethylstannane) | 0.80 g, yield 95% | C(CCCCCCCCCCC)C1(C2=C(SC(=C2)[Sn](C)(C)C)C=2SC(=CC21)[Sn](C)(C)C)CCCCCCCCCCCC | InChI=1S/C33H52S2.6CH3.2Sn/c1-3-5-7-9-11-13-15-17-19-21-25-33(26-22-20-18-16-14-12-10-8-6-4-2)29-23-27-34-31(29)32-30(33)24-28-35-32;;;;;;;;/h23-24H,3-22,25-26H2,1-2H3;6*1H3;;
